US04256739
0.306 ml (1.27 mmols) of bis-trimethylsilylacetamide is added to a suspension of 200 mg (0.63 mmol) of 7β-amino-3-(1-methyl-5-tetrazolylthio)-3-cephem-4-carboxylic acid in 3.2 ml of methylene chloride and the mixture is stirred under nitrogen at room temperature for 40 minutes. The solution is cooled to 0° C., 224 mg (1.52 mmols) of tetrazol-1-ylacetyl chloride are added and the mixture is stirred for 11/2 hours at 0° C. and extracted with aqueous sodium bicarbonate solution. The pH of the aqueous phase is adjusted to 1.5 and this phase is extracted with ethyl acetate. The organic phase is dried over sodium sulphate and evaporated in a rotary evaporator and gives 7β-[2-(tetrazol-1-yl)-acetylamino]-3-(1-methyl-5-tetrazolylthio)-3-cephem-4-carboxylic acid; thin layer chromatogram (silica gel; butanol/acetic acid/water, 75:7.5:21), Rf value 0.17; IR spectrum (nujol); characteristic bands at 3400, 1780, 1720 and 1690 cm-1.

reactant | bis-trimethylsilylacetamide | 1.27 mmols, 0.306 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | 7β-amino-3-(1-methyl-5-tetrazolylthio)-3-cephem-4-carboxylic acid | 0.63 mmol, 200 mg | N[C@H]1[C@@H]2N(C(=C(CS2)SC2=NN=NN2C)C(=O)O)C1=O | C9H10N6O3S2
reactant | tetrazol-1-ylacetyl chloride | 1.52 mmols, 224 mg | N1(N=NN=C1)CC(=O)Cl | C3H3ClN4O
solvent | methylene chloride | 3.2 ml | C(Cl)Cl | CH2Cl2
product | 7β-[2-(tetrazol-1-yl)-acetylamino]-3-(1-methyl-5-tetrazolylthio)-3-cephem-4-carboxylic acid | N1(N=NN=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SC2=NN=NN2C)C(=O)O)C1=O | C12H12N10O4S2
